US08071766B2
To a solution of (S)-2-(tert-butyldimethylsilyloxy)-4-hydroxybutanamide (4.85 g, 20.8 mmol) in CH2Cl2 (150 mL) was added 2-hydroxyisoindolin-1,3-dione (5.1 g, 31.2 mmol) and triphenylphosphine (8.2 g, 31.2 mmol). The resultant mixture was cooled to 0° C. and diisopropyl azodicarboxylate (6.0 ml, 31.2 mmol) was slowly added dropwise with an addition funnel under N2 atmosphere. The reaction mixture was stirred at ambient temperature for 48 h. The reaction mixture was concentrated to provide clear oil, which was purified by flash chromatography (60% EtOAc-Hexane). The resultant pale yellow compound was dissolved in CH2Cl2 (60 ml). Hydrazine hydrate (670 μL, 8.8 mmol) was added. The reaction mixture was stirred at ambient temperature for 8 h. The resultant solid was filtered off and the filtrate concentrated under reduced pressure to provide a clear yellow oil of (S)-4-(aminooxy)-2-(tert-butyldimethylsilyloxy)butanamide (1.1 g, 4.4 mmol). [M+H] calc'd for C10H24N2O3Si, 249. found, 249.

reactant | (S)-2-(tert-butyldimethylsilyloxy)-4-hydroxybutanamide | 20.8 mmol, 4.85 g | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)N)CCO | C10H23NO3Si
reactant | 2-hydroxyisoindolin-1,3-dione | 31.2 mmol, 5.1 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | triphenylphosphine | 31.2 mmol, 8.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 31.2 mmol, 6.0 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Hydrazine hydrate | 8.8 mmol, 670 μL | O.NN
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(aminooxy)-2-(tert-butyldimethylsilyloxy)butanamide | 4.4 mmol, 1.1 g | NOCC[C@@H](C(=O)N)O[Si](C)(C)C(C)(C)C | C10H24N2O3Si
